* Z:\mnt\design.r\spice\examples\1726-5.asc
V1 N001 0 PULSE(1.2 0 4.5 .5 .5 .5)
V2 N003 0 PULSE(5 0 .5 .5 .5 .5)
V3 N002 0 PULSE(3.3 0 2.5 0.5 0.5 0.5)
V4 N006 0 5
R3 N006 N005 10K
C1 P001 0 47n
C2 P002 0 47n
V6 N007 0 PULSE(0 2 1m 1u 1u 50u 800m 9)
R1 N001 N004 66.5K
R2 N004 0 100K
XU1 N002 N003 N004 0 N007 N005 P002 P001 LTC1726-5
.tran 10
.lib LTC1726-5.sub
.backanno
.end
